*Subcircuit of Counter of 2 bits
.SUBCKT COUNTER_2BITS CLK RESET OUT[0] OUT[1]
.PARAM VDD = 5
;  D   	GND   	CLK            	Preset	RESET 	NotQ	Q  
A1 D1 	0	CLK_INTERNAL 	0 	Reset 	D1 	OUT[0] 	0 DFLOP	Vhigh = VDD
A2 N002 0 	D1 		0 	Reset 	N002 	OUT[1] 	0 DFLOP	Vhigh = VDD

.END COUNTER_2BITS